US07956064B2
In a microwave vessel, methyl 2-bromo-3-thiophene carboxylate (1.0 eq, 250 mg, 1.13 mmol), 2-amino-3-cyanophenyl boronic acid HCl (1.1 eq, 250 mg, 1.24 mmol), sodium acetate (3.0 eq, 278 mg, 3.39 mmol) and PdCl2(dppf) (0.007 eq, 4.3 mg, 0.0082 mmol) were mixed together in anhydrous DMF (2.5 ml). The mixture was heated in a microwave oven at 120° C. for 10 nm. Water was added and the material extracted with CH2Cl2. The organic extracts were washed with brine, dried over Na2SO4 and the solvents removed in vacuo. The resulting solid was sonicated in AcOEt, filtered and dried to afford 4-oxo-4,5-dihydrothieno[3,2-c]quinoline-7-carbonitrile as a beige solid (121 mg, 48% yield). LCMS (ES): 95% pure, m/z 227 [M+1]+.

reactant | methyl 2-bromo-3-thiophene carboxylate | 1.13 mmol, 250 mg, 1.0 eq | BrC=1SC=CC1C(=O)OC | C6H5BrO2S
reactant | 2-amino-3-cyanophenyl boronic acid HCl | 1.24 mmol, 250 mg, 1.1 eq | Cl.NC1=C(C=CC=C1C#N)B(O)O
reactant | sodium acetate | 3.39 mmol, 278 mg, 3.0 eq | C(C)(=O)[O-].[Na+]
reactant | Water | O | H2O
reactant | DMF | 2.5 ml | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | 0.0082 mmol, 4.3 mg, 0.007 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-oxo-4,5-dihydrothieno[3,2-c]quinoline-7-carbonitrile | 121 mg, 48% yield | O=C1NC=2C=C(C=CC2C2=C1C=CS2)C#N | C12H6N2OS
